US05374720
A solution of dimethyl sulfoxide (3.6 ml, 50.7 mmol) in methylene chloride (15 ml) was dropwise added to a solution of oxalyl chloride (2.89 ml, 33.9 mmol) in methylene chloride (100 ml) in a nitrogen stream at -78° C. The reaction solution was stirred at the same temperature for 30 minutes. To this mixture, a solution of (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-hydroxymethylpyrrolidine (8.0 g, 24.2 mmol) in methylene chloride (50 ml) was dropwise added at -78° C. This mixture was stirred at the same temperature for 30 minutes, and then triethylamine (11.1 ml, 79.8 mmol) was added thereto. The mixture was stirred further for 30 minutes. The reaction mixture was poured into methylene chloride (200 ml), and the organic layer was washed sequentially with dilute hyrochloric acid, water and a saturated sodium chloride aqueous solution, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain an oily residue of (2S,4 R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-formylpyrrolidine.

reactant | dimethyl sulfoxide | 50.7 mmol, 3.6 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 33.9 mmol, 2.89 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-hydroxymethylpyrrolidine | 24.2 mmol, 8.0 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CO | C16H33NO4Si
reactant | triethylamine | 79.8 mmol, 11.1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (2S,4 R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-formylpyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=O | C16H31NO4Si
